US05648354
3-(Benzoyloxymethyl)-6-(hydroxymethyl)-1,2-dithiin.
To a stirred solution of the 3-[(tert-butyldimethysilyloxy)methyl]-6-(benzoyloxymethyl)-1,2-dithiin (250 mg, 0.63 mg) obtained above in THF (0.2-0.3M) was added a premixed solution of tetrabutylammonium fluoride (TBAF, 800-1250 mol % of a 1M solution in THF) and acetic acid (1.75-2:1, v/v, 1M TBAF/HOAc) at room temperature. The mixture was stired for 1-4 h. The solvent was concentrated and the residue was partitioned between water (40 mL) and EtOAc (60 mL). The organic phase was washed with dilute aqueous NaHCO3 (50 mL), water (50 mL), dried (Na2SO4), and concentrated to a small volume. Purification was done by chromatography, eluting with EtOAc/hexane mixtures, to yield 94 mg of the title compound (53.4%); 1H NMR (CDCl3) δ8.08-8.05 (m, 2 H), 7.57 (dd, J=7.2, 8.0, 1 H), 7.48-7.39 (m, 2 H), 6.47 (d, J=6.0, 1 H), 6.40 (d, J=6.0, 1 H), 4.96 (s, 2 H), 4.28 (s, 2 H), 2.2 (bs); MS 280.0 (M+).

reactant | 3-[(tert-butyldimethysilyloxy)methyl]-6-(benzoyloxymethyl)-1,2-dithiin | 250 mg | [Si](C)(C)(C(C)(C)C)OCC=1SSC(=CC1)COC(C1=CC=CC=C1)=O | C19H26O3S2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 1M | C(C)(=O)O | C2H4O2
solvent | THF | 0.2-0.3M | C1CCOC1 | C4H8O
product | 3-(Benzoyloxymethyl)-6-(hydroxymethyl)-1,2-dithiin | 94 mg, 53.4% | C(C1=CC=CC=C1)(=O)OCC=1SSC(=CC1)CO | C13H12O3S2
